US09163003B2
2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetonitrile
To a solution of 3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one (1.65 mmol, 500 mg) and chloroacetonitrile (1.65 mmol, 0.125 g) in THF (30 mL) and DMF (5 mL) was added sodium hydride (60%, 2.48 mmol, 0.099 g) and heated to 70° C. for 30 min. The reaction was allowed to cool to ambient temperature and dried under vacuum. Flash column chromatography (silica) was performed eluting with ethyl acetate to 20% MeOH/ethyl acetate and provided the title compound as an off-white residue (125 mg, 22.1% yield). Calculated MS=341.4. found MS (ESI) m/e 342.9 (M+H+); HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.472 min.

reactant | 3-[4-(4-methoxy-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 1.65 mmol, 500 mg | COC1=CC=C(C(=O)C2CCN(CC2)C2C(NCC2)=O)C=C1 | C17H22N2O3
reactant | chloroacetonitrile | 1.65 mmol, 0.125 g | ClCC#N | C2H2ClN
reactant | sodium hydride | 2.48 mmol, 0.099 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(4-methoxybenzoyl)piperidin-1-yl)-2-oxopyrrolidin-1-yl)acetonitrile | COC1=CC=C(C(=O)C2CCN(CC2)C2C(N(CC2)CC#N)=O)C=C1 | C19H23N3O3
